US07863450B2
Synthesis of 2-[4-(1-methyl-3-piperidin-1-ylpropoxy)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-ene 37.
To a solution of triphenylphosphine (1.03 g, 3.92 mmol, 1.1 eq) in tetrahydrofuran (10 ml) at 0° C. is added dropwise diisopropylazodicarboxylate (0.776 ml, 3.92 mmol, 1.1 eq). The mixture is stirred for 5 minutes and 4-(1-piperidinyl)-2-butanol (0.56 g, 3.56 mmol, 1 eq) is added slowly. Then, a solution of 4-(3-oxa-1-azaspiro[4.5]dec-1-en-2-yl)phenol ax8 (0.82 g, 3.56 mmol, 1 eq) in tetrahydrofuran (5 ml) is added at 0° C. The mixture is allowed to warm at room temperature and stirred for 2 hours. It is then poured into 0.5 N hydrochloric acid and extracted with diethyl ether. The aqueous layer is treated with a 1 M aqueous solution of sodium hydroxide to reach pH 9 and extracted 3 times with diethyl ether. The combined organic layers are dried over magnesium sulfate and the solvent is removed under reduced pressure to give 1.18 g of an orange oil. The crude product is purified by chromatography over silica gel to give 0.41 g of 2-[4-(1-methyl-3-piperidin-1-ylpropoxy)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-ene 37 as a yellow oil.

reactant | triphenylphosphine | 3.92 mmol, 1.03 g, 1.1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 3.92 mmol, 0.776 ml, 1.1 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 4-(1-piperidinyl)-2-butanol | 3.56 mmol, 0.56 g, 1 eq | N1(CCCCC1)CCC(C)O | C9H19NO
reactant | 4-(3-oxa-1-azaspiro[4.5]dec-1-en-2-yl)phenol | N1=C(OCC12CCCCC2)C2=CC=C(C=C2)O | C14H17NO2
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[4-(1-methyl-3-piperidin-1-ylpropoxy)phenyl]-3-oxa-1-azaspiro[4.5]dec-1-ene | 1.18 g, Yield: 31% | CC(CCN1CCCCC1)OC1=CC=C(C=C1)C1=NC2(CO1)CCCCC2 | C23H34N2O2
